US06509328B1
4-(4-Oxo-7-phenylethynyl-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl)-pyridine-2-carbonitrile
Prepared from {2-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-4-phenylethynyl-phenyl}-carbamic acid tert.-butyl ester (Example K67) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a yellow solid (10 mg).

reactant | {2-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-4-phenylethynyl-phenyl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=CC=C1)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C28H24N4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(4-Oxo-7-phenylethynyl-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl)-pyridine-2-carbonitrile | 10 mg | O=C1NC2=C(N=C(C1)C1=CC(=NC=C1)C#N)C=CC(=C2)C#CC2=CC=CC=C2 | C23H14N4O
